US06953792B2
Methyl 4-Oxo-1-phenylcyclohexanecarboxylate
Acetyl chloride (0.46 mL, 0.50 g, 6.4 mmol) was added to a solution of 4-oxo-1-phenylcyclohexanecarboxylic acid (Description 2, 0.94 g, 4.3 mmol) in methanol (5 mL) and the mixture was heated under reflux for 20 hours. The mixture was cooled, poured into aqueous sodium hydrogen carbonate (saturated, 100 mL) and extracted with ethyl acetate (2×50 mL). The combined organic fractions were dried (Na2SO4) and the solvent was evaporated under reduced pressure. The residue was dissolved in tetrahydrofuran (2 mL), acetic acid (6 mL) and water (2 mL) were added and the mixture was stirred at 45° C. for 2 hours. The mixture was cooled, the solvent was evaporated under reduced pressure and aqueous sodium hydrogen carbonate (saturated, 100 mL) was added. The mixture was extracted with ethyl acetate (2×50 mL), the combined organic fractions were dried (Na2SO2) and the solvent was evaporated under reduced pressure to give the tide compound (0.98 g, 98%). 1H NMR (250 MHz, CDCl3) δ 7.45-7.26 (5H, m), 3.72 (3H, s), 2.77 (2H, m), 2.61-2.38 (4H, m), and 2.25 (2H, m).

reactant | Acetyl chloride | 6.4 mmol, 0.46 mL, 0.50 g | C(C)(=O)Cl | C2H3ClO
reactant | 4-oxo-1-phenylcyclohexanecarboxylic acid | 4.3 mmol, 0.94 g | O=C1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C13H14O3
reactant | sodium hydrogen carbonate | 100 mL | C(O)([O-])=O.[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | Methyl 4-Oxo-1-phenylcyclohexanecarboxylate | 0.98 g, 98% | O=C1CCC(CC1)(C(=O)OC)C1=CC=CC=C1 | C14H16O3
